US06172064B2
To a solution of (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid (11.6 g, 50 mmol) in dichloromethane (100 mL) is added EDC (14.4 g, 75 mmol), HOBT (7.65 g, 50 mmol), and 2-pyridylmethylamine (6.48 g, 60 mmol). The resulting solution is stirred at 25° C. for 18 h, then diluted with dichloromethane (200 mL) and washed with 2 M hydrochloric acid and 2 M sodium hydroxide. The organic layer is dried over anhydrous magnesium sulfate and concentrated in vacuo to provide (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid 2-pyridylmethylamide as a white solid (16 g, 100% yield).

reactant | (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid | 50 mmol, 11.6 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C11H21NO4
reactant | EDC | 75 mmol, 14.4 g
reactant | HOBT | 50 mmol, 7.65 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-pyridylmethylamine | 60 mmol, 6.48 g | N1=C(C=CC=C1)CN | C6H8N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (2S)-2-tert-butoxycarbonylamino-3,3-dimethylbutanoic acid 2-pyridylmethylamide | 16 g, 100% yield | N1=C(C=CC=C1)CNC([C@H](C(C)(C)C)NC(=O)OC(C)(C)C)=O | C17H27N3O3
